US05552081
Preparation of B-chloro-9-borabicyclo[3.3.1]nonane
The title compound was prepared in 75% yield following the method of Example 1 by treating 9-borabicyclo[3.3.1]nonane (9-BBN, Aldrich Chemical Company, Inc., Milwaukee, Wis.) with anhydrous HCl in ether. 11B NMR δ 79 ppm in hexane, bp 65° C. (0.3 mm).

reactant | 9-borabicyclo[3.3.1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | B-chloro-9-borabicyclo[3.3.1]nonane | 75% yield | ClB1C2CCCC1CCC2 | C8H14BCl
